US05700809
1-Benzyl-4-ethyl-1,2,3,6-tetrahydropyridine
A solution of 4-ethylpyridine (3.0 g, 28 mmol) in anhydrous dimethylformamide (10 ml) was treated with benzyl bromide (3.7 ml, 31 mmol) and the mixture was stirred at room temperature for two hours. The reaction mixture was diluted with absolute ethanol (60 ml), treated with sodium borohydride (1.3 g, 35 mmol) and stirred at reflux for one hour. The solvent was evaporated in vacuo and the residue partitioned between dichloromethane and water. The organic phase was separated, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed with 1:1 hexane/ethyl acetate as eluant to give the title compound (1.92 g, 34% over two steps) as a colourless oil; δH (CDCl3) 1.00 (3H, t, J 7.5 Hz, CH2CH3), 1.94-2.12 (4H, m, CH2CH3 and tetrahydropyridinyl CH2), 2.55 (2H, t, J 6.3 Hz, tetrahydropyridinyl CH2), 2.90-3.00 (2H, m, tetrahydropyridinyl CH2), 3.58 (2H, s, PhCH2N), 5.32-5.40 (1H, m, tetrahydropyridinyl 5-H), and 7.20-7.40 (5H, m, ArH); m/z (CI+, NH3) 202 (M+1)+.

reactant | 4-ethylpyridine | 28 mmol, 3.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | benzyl bromide | 31 mmol, 3.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 35 mmol, 1.3 g | [BH4-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-Benzyl-4-ethyl-1,2,3,6-tetrahydropyridine | 1.92 g, 34% | C(C1=CC=CC=C1)N1CCC(=CC1)CC | C14H19N
